US04618627
A solution of 1.75 g of 1-(3,4-dibenzyloxyphenyl)-3-nonanone in 10 ml of tetrahydrofuran was cooled to 0° to 5° C. and then an ether solution of a Grignard reagent prepared from 0.24 g of metallic magnesium and 1.7 g of methyl iodide was added dropwise to the mixture. Thereafter, the resultant mixture was stirred for 15 minutes and after adding thereto 50 ml of an aqueous 5% hydrochloric acid solution, the product was extracted with toluene. The extract was washed with water, dried over anhydrous magnesium sulfate, and the solvent was distilled off under reduced pressure to provide 1.6 g of 1-(3,4-dibenzyloxyphenyl)-3-methyl-3-nonanol.

reactant | 1-(3,4-dibenzyloxyphenyl)-3-nonanone | 1.75 g | C(C1=CC=CC=C1)OC=1C=C(C=CC1OCC1=CC=CC=C1)CCC(CCCCCC)=O | C29H34O3
reactant | ether | CCOCC | C4H10O
reactant | magnesium | 0.24 g | [Mg] | Mg
reactant | methyl iodide | 1.7 g | CI | CH3I
solvent | tetrahydrofuran | 10 ml | O1CCCC1 | C4H8O
product | 1-(3,4-dibenzyloxyphenyl)-3-methyl-3-nonanol | 1.6 g | C(C1=CC=CC=C1)OC=1C=C(C=CC1OCC1=CC=CC=C1)CCC(CCCCCC)(O)C | C30H38O3
